US04450164
STEP A: Preparation of 8-hydroxy-2-methyl-imidazo-[1,2-a]pyridine.
A mixture of 2-amino-3-hydroxypyridine (1,000 g) and chloroacetone (845 g) in 7.57 liters of ethanol was heated under reflux for 20 hrs. Most of the ethanol was removed by distillation and the residual material was dissolved in 7.57 liters of water. This solution was extracted four times with 1.2 liter portions of dichloromethane. The combined extracts were washed with 1 liter of water and this was combined with the aqueous solution. This solution was then adjusted to pH 11.5-12 with 850 ml of 50%sodium hydroxide. This basic solution was extracted three times with 1.2 liters of dichloromethane. The combined dichloromethane extracts were washed with 1 liter of H2O and this was added to the basic solution.This solution was chilled in an ice bath and the pH adjusted to 7 with 1.45liters of 6 N hydrochloric acid. After standing overnight, the product was collected, washed with water, and dried. The product was recrystallized from dichloromethane/methanol to give the intermediate.

reactant | 2-amino-3-hydroxypyridine | 1,000 g | NC1=NC=CC=C1O | C5H6N2O
reactant | chloroacetone | 845 g | ClCC(C)=O | C3H5ClO
solvent | ethanol | 7.57 liters | C(C)O | C2H6O
product | 8-hydroxy-2-methyl-imidazo-[1,2-a]pyridine | OC=1C=2N(C=CC1)C=C(N2)C | C8H8N2O
